US05693652
2-(4-Ethoxycarboxypiperidino)carbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline hydrochloride
A solution of 0.50 ml (3.3 mmol) of diethyl cyanophosphate in 3 ml of dimethylformamide and 0.50 ml (3.6 mmol) of triethylamine were dropped, in this order, into a solution of 0.78 g (2.2 mmol) of 2-carboxy-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline and 0.50 g (3.2 mmol) of ethyl isonipecotate in 7 μl of dimethylformamide under cooling with ice and stirring. The obtained mixture was stirred under cooling with ice for 30 minutes and thereafter at room temperature for 3 hours, followed by the addition of water. The resulting mixture was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was distilled in a vacuum to remove the solvent. The residue was recrystallized from hydrochloric acid/ethanol/ether to give 0.96 g of the title compound.

reactant | diethyl cyanophosphate | 3.3 mmol, 0.50 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 3.6 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 2-carboxy-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 2.2 mmol, 0.78 g | C(=O)(O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H12ClN3O4
reactant | ethyl isonipecotate | 3.2 mmol, 0.50 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 7 μl | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(4-Ethoxycarboxypiperidino)carbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline hydrochloride | 0.96 g | Cl.C(C)OC1CC(N(CC1)C(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl)C(=O)O | InChI=1S/C25H25ClN4O6.ClH/c1-2-34-16-7-8-30(19(11-16)25(32)33)24(31)23-28-18-5-4-15(26)10-17(18)22(29-23)27-12-14-3-6-20-21(9-14)36-13-35-20;/h3-6,9-10,16,19H,2,7-8,11-13H2,1H3,(H,32,33)(H,27,28,29);1H
